US04447435
4-Hydroxy-6-methoxyquinoline was reacted with formaldehyde in aqueous sodium hydroxide (initially at 40°-50°, then kept at 60° for 18 hours) to give the novel compound 4-hydroxy-3-hydroxymethyl-6-methoxyquinoline, m.p. 327°-334°.

reactant | 4-Hydroxy-6-methoxyquinoline | OC1=CC=NC2=CC=C(C=C12)OC | C10H9NO2
reactant | formaldehyde | C=O | CH2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 4-hydroxy-3-hydroxymethyl-6-methoxyquinoline | OC1=C(C=NC2=CC=C(C=C12)OC)CO | C11H11NO3
